US05248447
1 mol of 2,3-difluorophenol is dissolved in 1 l of 10% sodium hydroxide solution, and a saturated aqueous solution of 1.1 mol of potassium peroxodisulphate is added dropwise over the course of 4 hours with ice cooling. During this addition, the temperature must not exceed 20o The mixture is stirred overnight at room temperature and neutralized using hydrochloric acid, and unreacted starting material is extracted with ether. 3 1 of toluene and 2 mol of sodium sulphite are added to the aqueous phase, and the mixture is strongly acidified using 1 1 of concentrated hydrochloric acid and refluxed for 20 minutes. After cooling, the toluene layer is separated off, the aqueous phase is extracted with ether in a perforator, and 2,3-difluorohydroquinone is obtained by evaporating the combined toluene and ether extracts.

reactant | 2,3-difluorophenol | 1 mol | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | potassium | 1.1 mol | [K] | K
reactant | hydrochloric acid | Cl | ClH
reactant | sodium sulphite | 2 mol | S(=O)([O-])[O-].[Na+].[Na+]
solvent | sodium hydroxide | 1 l | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-difluorohydroquinone | FC1=C(O)C=CC(=C1F)O | C6H4F2O2
